US06251898B1
This synthesis requires a brominated intermediate, which is prepared by a four-step process, as illustrated in FIG. 3. p-Toluic acid is first converted to N-(2-hydroxyethyl)-4-toluamide, using carbonyldiimidazole (CDI) and ethanolamine. This first intermediate is then converted to a N-[2-methanesulfonyloxy]-4-toluamide, using methanesulfonyl chloride. This second intermediate is then cyclized to form 2-(4-methylphenyl)oxazoline by processes analogous to those described in Example 7, below. This third intermediate is then brominated, using N-bromosuccinimide and benzoyl peroxide as described in Example 3, to produce 2-[(4-bromomethyl)phenyl]-oxazoline. This intermediate is then reacted with hydroxy compound [2], using a procedure similar to that described in Example 3, to give the desired compound, GERI-E6.

reactant | p-Toluic acid | CC=1C=CC(=CC1)C(=O)O | C8H8O2
reactant | N-(2-hydroxyethyl)-4-toluamide | OCCNC(=O)C1=CC=C(C=C1)C | C10H13NO2
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 2-(4-methylphenyl)oxazoline | CC1=CC=C(C=C1)C=1OCCN1 | C10H11NO
